US06403791B1
(3-Ethyl-5-methylisoxazol-4-yl)-carbamic acid 2-trimethylsilanylethyl ester
A solution of 3-ethyl-5-methyl-isoxazole-4-carboxylic acid (1.0 g), diphenylphosphoryl azide (1.4 ml) and triethylamine (0.9 ml) in toluene (20 ml) under an atmosphere of nitrogen was heated at 80° C. for 2 hours. 2-(Trimethylsilyl)-ethanol was added dropwise and heating at 80° C. continued for 18 hours. The solvent was removed in vacuo and the residue dissolved in ethyl acetate (100 ml), washed with 1N sodium hydroxide solution (2×25 ml) and washed with brine (25 ml). The organic layer was separated, dried over magnesium sulphate, filtered and the solvent removed in vacuo. Purification by column chromatograhy on silica eluting with 20% ethyl acetate in hexane afforded the title compound as a colourless oil (1.2 g).

reactant | 3-ethyl-5-methyl-isoxazole-4-carboxylic acid | 1.0 g | C(C)C1=NOC(=C1C(=O)O)C | C7H9NO3
reactant | diphenylphosphoryl azide | 1.4 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(Trimethylsilyl)-ethanol | C[Si](CCO)(C)C | C5H14OSi
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (3-Ethyl-5-methylisoxazol-4-yl)-carbamic acid 2-trimethylsilanylethyl ester | 1.2 g | C[Si](CCOC(NC=1C(=NOC1C)CC)=O)(C)C | C12H22N2O3Si
